.subckt ADDER3 A0 A1 A2 B0 B1 B2 CIN S0 S1 S2 COUT VDD GND
x_fa10 A0 B0 GND sum10 cout10 VDD GND FA1
x_fa11 A1 B1 cout10 sum11 cout11 VDD GND FA2 
x_fa12 A2 B2 cout11 sum12 cout12 VDD GND FA3
x_fa20 A0 B0 VDD sum20 cout20 VDD GND FA1
x_fa21 A1 B1 cout20 sum21 cout21 VDD GND FA2
x_fa22 A2 B2 cout21 sum22 cout22 VDD GND FA3
x_mux0 sum10 sum20 CIN S0 VDD GND MUX21
x_mux1 sum11 sum21 CIN S1 VDD GND MUX21
x_mux2 sum12 sum22 CIN S2 VDD GND MUX21
x_muxout cout12 cout22 CIN COUT VDD GND MUX21
.ends and

.subckt FA1 a b c_in sum c_out VDD GND
x_nand1 a b out1 VDD GND NAND_4X
x_nand2 out1 a out2 VDD GND NAND_4X
x_nand3 out1 b out3 VDD GND NAND_4X
x_nand4 out3 out2 out4 VDD GND NAND_4X
x_nand5 out4 c_in out5 VDD GND NAND_4X
x_nand6	out5 out4 out6 VDD GND NAND_3X
x_nand7	out5 c_in out7 VDD GND NAND_3X
x_nand8 out7 out6 sum VDD GND NAND_3X
x_nand9	out5 out1 c_out VDD GND NAND_3X
.ends and

.subckt FA2 a b c_in sum c_out VDD GND
x_nand1 a b out1 VDD GND NAND_3X
x_nand2 out1 a out2 VDD GND NAND_3X
x_nand3 out1 b out3 VDD GND NAND_3X
x_nand4 out3 out2 out4 VDD GND NAND_3X
x_nand5 out4 c_in out5 VDD GND NAND_3X
x_nand6	out5 out4 out6 VDD GND NAND_2X
x_nand7	out5 c_in out7 VDD GND NAND_2X
x_nand8 out7 out6 sum VDD GND NAND_2X
x_nand9	out5 out1 c_out VDD GND NAND_2X
.ends and

.subckt FA3 a b c_in sum c_out VDD GND
x_nand1 a b out1 VDD GND NAND_2X
x_nand2 out1 a out2 VDD GND NAND_2X
x_nand3 out1 b out3 VDD GND NAND_2X
x_nand4 out3 out2 out4 VDD GND NAND_2X
x_nand5 out4 c_in out5 VDD GND NAND_2X
x_nand6	out5 out4 out6 VDD GND NAND_1X
x_nand7	out5 c_in out7 VDD GND NAND_1X
x_nand8 out7 out6 sum VDD GND NAND_1X
x_nand9	out5 out1 c_out VDD GND NAND_1X
.ends and

.subckt MUX21 in1 in2 ctrl out VDD GND
x_mux1_inv	ctrl			INV_out VDD GND INV_2X
x_mux2_nand	in1		INV_out N2_out 	VDD GND NAND_2X
x_mux3_nand	ctrl	in2		N3_out 	VDD GND NAND_2X
x_mux4_nand	N2_out	N3_out	out 	VDD GND NAND_2X
.ends and

.subckt NAND_1X IN1 IN2 OUT VDD GND
mp1 OUT IN1 VDD VDD P_18 w=0.56u l=0.18u
mp2 OUT IN2 VDD VDD P_18 w=0.56u l=0.18u
mn1 NET IN1 GND GND N_18 w=0.56u l=0.18u
mn2 OUT IN2 NET GND N_18 w=0.56u l=0.18u
.ends and

.subckt NAND_2X IN1 IN2 OUT VDD GND
mp1 OUT IN1 VDD VDD P_18 w=0.67u l=0.18u
mp2 OUT IN2 VDD VDD P_18 w=0.67u l=0.18u
mn1 NET IN1 GND GND N_18 w=0.67u l=0.18u
mn2 OUT IN2 NET GND N_18 w=0.67u l=0.18u
.ends and

.subckt NAND_3X IN1 IN2 OUT VDD GND
mp1 OUT IN1 VDD VDD P_18 w=0.80u l=0.18u
mp2 OUT IN2 VDD VDD P_18 w=0.80u l=0.18u
mn1 NET IN1 GND GND N_18 w=0.80u l=0.18u
mn2 OUT IN2 NET GND N_18 w=0.80u l=0.18u
.ends and


.subckt NAND_4X IN1 IN2 OUT VDD GND
mp1 OUT IN1 VDD VDD P_18 w=1.0u l=0.18u
mp2 OUT IN2 VDD VDD P_18 w=1.0u l=0.18u
mn1 NET IN1 GND GND N_18 w=1.0u l=0.18u
mn2 OUT IN2 NET GND N_18 w=1.0u l=0.18u
.ends and

.subckt INV_1X IN OUT VDD GND
mp1 OUT IN VDD VDD P_18 w=0.56u l=0.18u
mn1 OUT IN GND GND N_18 w=0.56u l=0.18u
.ends and


.subckt INV_2X IN OUT VDD GND
mp1 OUT IN VDD VDD P_18 w=0.67u l=0.18u
mn1 OUT IN GND GND N_18 w=0.67u l=0.18u
.ends and

.subckt INV_3X IN OUT VDD GND
mp1 OUT IN VDD VDD P_18 w=0.80u l=0.18u
mn1 OUT IN GND GND N_18 w=0.80u l=0.18u
.ends and

.subckt INV_4X IN OUT VDD GND
mp1 OUT IN VDD VDD P_18 w=1.0u l=0.18u
mn1 OUT IN GND GND N_18 w=1.0u l=0.18u
.ends
